US07645771B2
Synthesis of methyl(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetate
To a stirred solution of (4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo-[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetic acid (prepared above) (12 mg, 0.02 mmol) in methanol (2 mL) was added (trimethylsilyl)diazomethane (100 μL, 2.0 M in hexans). The reaction mixture was stirred for 30 minutes at room temperature. After evaporation of the solvents, the residue was purified by flash chromatography, eluting with a gradient of 0-10% methanol in ethyl acetate, to afford an oil (10 mg, 81%) as methyl(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetate. 1H NMR (300 MHz, CDCl3) δ 7.67 (d, J=7.1 Hz, 1H), 7.45-7.42 (m, 2H), 7.37-7.27 (m, 8H), 7.23-7.15 (m, 3H), 4.61 (m, 1H), 3.89 (s, 1H), 3.67 (s, 3H), 3.25-3.24 (m, 2H), 2.72-2.70 (m, 1H), 2.55 (s, 4H), 2.42-2.16 (m, 6H), 2.03-1.85 (m, 7H), 1.81-1.76 (m, 3H), 1.61-1.58 (m, 2H). HRMS m/z (M+H)+ calcd: 577.3543, obsd: 577.3557.

reactant | (4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo-[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetic acid | 0.02 mmol, 12 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCN(CC3)C(C(=O)O)C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2 | C36H42N4O2
reactant | (trimethylsilyl)diazomethane | 2.0 M, 100 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 2 mL | CO | CH4O
product | methyl(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetate | 10 mg, 81% | COC(C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)=O | C37H44N4O2
